US06248740B1
3.70 g of potassium phthalimide was dissolved in 20 ml of N,N-dimethylformamide; 5.4 ml of 1,5-dichloropentane was added, followed by stirring at room temperature for 15 hours. Ice water was added to the reaction mixture, followed by extraction with ethyl acetate; the extract was washed with saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with hexane-ethyl acetate (4:1). The desired fraction was collected to yield 4.68 g of N-(5-bromopentyl)phthalimide as an oily substance. 4.68 g of N-(5-bromopentyl)phthalimide and 4.25 g of 4-(diphenylmethoxy)piperidine were dissolved in 30 ml of N,N-dimethylformamide; 2.42 g of potassium carbonate was added, followed by stirring at room temperature for 15 hours. Ice water was added to the reaction mixture, followed by extraction with ethyl acetate; the extract was washed with saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with hexane-ethyl acetate-triethylamine (50:50:1). The desired fraction was collected to yield 6.67 g of N-[5-[4-(diphenylmethoxy)piperidino]pentyl]phthalimide as an oily substance. 6.6 g of N-[5-[4-(diphenylmethoxy)piperidino]pentyl]phthalimide was dissolved in 30 ml of ethanol; 0.694 ml of hydrazine monohydrate was added, followed by thermal refluxing for 3 hours. After cooling, the mixture was concentrated under reduced pressure; ethyl acetate was added to the residue; the crystal precipitated was collected, dissolved in 15 ml of a 1 N aqueous solution of sodium hydroxide and 20 ml of water and extracted with ethyl acetate; the extract was washed with saline and dried with sodium sulfate. The dry product was concentrated under reduced pressure; the crystal obtained was collected to yield 3.29 g of the title compound.

reactant | N-(5-bromopentyl)phthalimide | 4.68 g | BrCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C13H14BrNO2
reactant | 4-(diphenylmethoxy)piperidine | 4.25 g | C1(=CC=CC=C1)C(OC1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | potassium carbonate | 2.42 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-[5-[4-(diphenylmethoxy)piperidino]pentyl]phthalimide | 6.67 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=CC=C2 | C31H34N2O3
